US07767672B2
2-(2-methylquinolin-6-ylthio)-6-chloro-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine
To a stirred suspension of 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine (2.02 g, 7.03 mmol) in tert-butanol (20 ml) was added 2-methylquinoline-6-thiol (1.23 g, 7.03 mmol). The mixture was heated to 70° C. for 4 hours, then cooled to ambient and diluted with ethyl acetate/saturated aqueous potassium carbonate. The mixture was filtered to remove unreacted starting material and the organic layer removed form the filtrate. The aqueous layer was extracted with ethyl acetate and the combined organic extracts washed with brine, dried (MgSO4), filtered and concentrated. The crude was purified on silica gel, eluting with 90 to 100% ethyl acetate/petrol. The title compound was further purified by trituration with dichloromethane. This gave the product as a white solid (514 mg, 19%); MS ES+ 383.25, ES− 381.36.

reactant | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | 7.03 mmol, 2.02 g | ClC1=CC(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C | C9H10ClN5O2S
reactant | 2-methylquinoline-6-thiol | 7.03 mmol, 1.23 g | CC1=NC2=CC=C(C=C2C=C1)S | C10H9NS
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-methylquinolin-6-ylthio)-6-chloro-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine | 514 mg, 19% | CC1=NC2=CC=C(C=C2C=C1)SC1=NC(=CC(=N1)NC1=CC(=NN1)C)Cl | C18H15ClN6S
